US06472386B1
Synthesis of N,N′-bis[[1-Methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]homopiperazine
3-Chloromethyl-1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazole (95 mg) and homopiperazine (14 mg) were reacted in the same manner in Example 1 to obtain the title compound.

reactant | 3-Chloromethyl-1-methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazole | 95 mg | ClCC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)COC | C15H19ClN2O4
reactant | homopiperazine | 14 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[1-Methoxymethyl-5-(3,4,5-trimethoxyphenyl)pyrazol-3-yl]methyl]homopiperazine | COCN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CCC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)COC | C35H48N6O8
